US20010018430A1
3,5-Dichloro-2,4,6-trifluorophenylsulfonyl chloride.
1,3-Dichloro-2,4,6-trifluorobenzene (5.0 g, 25 mmol) and chlorosulfonic acid (10.0 mL, 150 mmol) were mixed at ambient temperature under a nitrogen atmosphere and the reaction was heated at 80° C. for 24 h. The mixture was then allowed to cool to ambient temperature and was poured onto 12 g of crushed ice. The product was extracted with diethyl ether, dried over MgSO4, and the solvent was evaporated to produce 4.9 g of the title compound, which was used without further purification. MS (EI): 300 (30, M+), 298 (28), 263 (100), 199 (80).

reactant | 1,3-Dichloro-2,4,6-trifluorobenzene | 25 mmol, 5.0 g | ClC1=C(C(=C(C=C1F)F)Cl)F | C6HCl2F3
reactant | chlorosulfonic acid | 150 mmol, 10.0 mL | ClS(=O)(=O)O | ClHO3S
product | 3,5-Dichloro-2,4,6-trifluorophenylsulfonyl chloride | 4.9 g | ClC=1C(=C(C(=C(C1F)Cl)F)S(=O)(=O)Cl)F | C6Cl3F3O2S
